US04457932
B. 9-Chloro-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound (m.p. 313°-315° with decomposition, 44% yield) was prepared from ethyl 2-cyano-3-(3-chloro-2-pyridylamino)acrylate in a manner similar to that described for the preparation of 3-(1H-tetrazol-5-yl)4H-pyrido[1,2-a]pyrimidin-4-one in Example 2 of U.S. Pat. No. 4,122,274.

reactant | ethyl 2-cyano-3-(3-chloro-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1Cl | C11H10ClN3O2
reactant | 3-(1H-tetrazol-5-yl)4H-pyrido[1,2-a]pyrimidin-4-one | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
product | 9-Chloro-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 44% yield | ClC1=CC=CN2C1=NC=C(C2=O)C2=NN=NN2 | C9H5ClN6O
